US05624943
Under the conditions of example 5 A, 370 mg of crude N-(3-ethinylphenyl)-1,1,1-trifluoromethanesulfonamide is reacted with 735 mg of 3-{6-iodo-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester, worked up, and the crude product is chromatographed on silica gel with hexane/0-20% ethyl acetate. 299 mg of 3-{3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-6-[2-(3-trifluoromethanesulfonamidophenyl)-ethinyl]-2-pyridyl}-propionic acid methyl ester is obtained as oil.

reactant | N-(3-ethinylphenyl)-1,1,1-trifluoromethanesulfonamide | 370 mg | C(#C)C=1C=C(C=CC1)NS(=O)(=O)C(F)(F)F | C9H6F3NO2S
reactant | 3-{6-iodo-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester | 735 mg | COC(CCC1=NC(=CC=C1OCCCC\C=C\C1=CC=C(C=C1)OC)I)=O | C22H26INO4
product | 3-{3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-6-[2-(3-trifluoromethanesulfonamidophenyl)-ethinyl]-2-pyridyl}-propionic acid methyl ester | 299 mg | COC(CCC1=NC(=CC=C1OCCCC\C=C\C1=CC=C(C=C1)OC)C#CC1=CC(=CC=C1)NS(=O)(=O)C(F)(F)F)=O | C31H31F3N2O6S
